US07262318B2
4-Nitro-4′propoxybiphenyl
To a solution of 4-hydroxy-4′nitrobiphenyl in 5 ml acetone was added potassium carbonate (240 mg, 1.74 mmol) and 1-iodopropane (0.17 ml, 1.74 mmol). The reaction mixture was heated at reflux for 24 h. Additional potassium carbonate (240 mg, 1.74 mmol) and 1-iodopropane (0.17 ml, 1.74 mmol) was added and the reaction mixture was heated at reflux for 24 h. The reaction mixture was cooled to room temperature and diluted with 30 ml ethyl acetate. The ethyl acetate solution was washed sequentially with 25 ml water and 25 ml brine, dried (anhydrous sodium sulfate) and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel), eluting with 14:1 hexane/ethyl acetate to yield the title compound (0.267 g, 89% yield) MS: 258.3 (M−1)

reactant | 4-hydroxy-4′nitrobiphenyl | OC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H9NO3
reactant | potassium carbonate | 1.74 mmol, 240 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 1.74 mmol, 0.17 ml | ICCC | C3H7I
reactant | potassium carbonate | 1.74 mmol, 240 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 1.74 mmol, 0.17 ml | ICCC | C3H7I
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-Nitro-4′propoxybiphenyl | 0.267 g, 89% yield | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)OCCC | C15H15NO3
